' sin test 
.option out=170 
V1  1  0  SFFM  offset= 0.  amplitude= 1.  carrier=10k  modindex=.1  signal=1k
V2  2  0  SFFM  offset= 0.  amplitude= 1.  carrier=10k  modindex=1   signal=1k
V3  3  0  SIN   freq=10k
V4  4  0  SFFM  offset= 0.  amplitude= 1.  carrier=10k  modindex=2.4 signal=1k
.print tran v nodes 
.tran 0 .002 5u
.print fourier v(nodes)
.fourier 5k 15k 1k
.list 
.status notime
.end 
