'''''
R1 1 2 1
C1 2 0 {cap*10}
Vv1 1 0 dc=0 ac=0 pulse(2 0 0 100p 100p 400p 1n)

s1 0 0 1 0 s01
.model s01 sw vt="svt*1.3"
s2 0 0 1 0 s02
.model s02 sw vt="svt*0.9"

.param cap=100f
.param svt=1

.store tran v(2) v(1)
.print tran v(1) control(0) eventtime(s?) nexttime(C*) eventtime(C*) nexttime(V*) eventtime(V*) dt(C1)
.tran 0 2n 100p trace all

.param vol2=vmax*0.8
.param vol1=vmax*0.2
.param midpoint={(vol1+vol2)/2}
.param frequency={1/(t4-t3)}

.measure vmax=max(probe="v(1)" end=900p begin=0)
.measure t1=cross(probe="v(1)" end=1n  cross=1.3 rise)
.measure t2=cross(probe="v(1)" end=1n  cross=.9 fall)
.exp vol2
.exp vol1
.exp vmax
.exp midpoint
.measure t3=cross(probe="v(1)" end=1n  cross=midpoint rise)
.measure t4=cross(probe="v(1)" begin=t3   cross=midpoint rise)
.measure t5=cross(probe="v(1)" begin=t3   cross={(vol1+vol2)/2} rise)
.measure tmin=min(probe="v(1)" end=1n arg)
.measure vmin=min(probe="v(1)" end=1n begin=0)
.measure slew=slewrate(probe="v(1)" initial={vmax*0.2} final={vmax*0.8} expression)
.exp slew
.measure slew=slewrate(probe="v(1)" initial={vmax*0.2} final={vmax*0.8} expression last)
.exp slew
.measure slew=slewrate(probe="v(1)" initial={vmax*0.2} final={vmax*0.8})
.exp frequency
.measure t4=cross(probe="v(1)" cross=midpoint rise)
.measure t3=cross(probe="v(1)" cross=midpoint rise last)
.exp frequency
.measure tvmax = max(probe="v(1)" arg)
.measure tvmax = max(probe="v(1)" last arg)

.status notime
.end
