' bjt test
.model nn npn
.model pp npn
vcc 1 0 dc 30
rb1 1 2 27k
rb2 2 0 1.6k
rc 3 1 10k
re 4 0 1k
q1 3 2 4 0 nn
q2 3 2 4 0 pp area=0
*>.width out=80
*>.list
*>.print op v(nodes)
*>.op trace iter
.op
*>.print op ice(q1) ipi(q1) imu(q1) iceo(q1) ipio(q1) imuo(q1)
.op
*>.print op ic(q1) ib(q1) ie(q1) vbe(q1) vbc(q1)
.op
*>.print op gm(q1) gpi(q1) gmu(q1) gx(q1) go(q1)
.op
*>.print op cpi(q1) cmu(q1) cbx(q1) ccs(q1)
.op
*>.print op i(r*)
.op
*>.print op p(r*)
.op
*>.print op i(vcc) p(vcc)
.op
