'
.subckt 1 2 3
W2   4  0  Vprobe  sss 
.model  sss  csw  ( it= 0.  ih= .002  ron= 1.K  roff= 1.E+12 )
.ends

W2   4  0  Vprobe  sss 
.model  sss  csw  ( it= 0.  ih= .002  ron= 1.K  roff= 1.E+12 )

.list
