
.subckt A 1 11
X01  2  1 B
X02  3  2 B
X03  4  3 B
X04  5  4 B
X05  6  5 B
X06  7  6 B
X07  8  7 B
X08  9  8 B
X09 10  9 B
X10 11 10 B
.ends

.subckt B 1 11
X01  2  1 C
X02  3  2 C
X03  4  3 C
X04  5  4 C
X05  6  5 C
X06  7  6 C
X07  8  7 C
X08  9  8 C
X09 10  9 C
X10 11 10 C
.ends

.subckt C 1 11
X01  2  1 D
X02  3  2 D
X03  4  3 D
X04  5  4 D
X05  6  5 D
X06  7  6 D
X07  8  7 D
X08  9  8 D
X09 10  9 D
X10 11 10 D
.ends

.subckt D 1 11
X01  2  1 E
X02  3  2 E
X03  4  3 E
X04  5  4 E
X05  6  5 E
X06  7  6 E
X07  8  7 E
X08  9  8 E
X09 10  9 E
X10 11 10 E
.ends

.subckt E 1 11
X01  2  1 F
X02  3  2 F
X03  4  3 F
X04  5  4 F
X05  6  5 F
X06  7  6 F
X07  8  7 F
X08  9  8 F
X09 10  9 F
X10 11 10 F
.ends

.subckt F 1 11
X01  2  1 G
X02  3  2 G
X03  4  3 G
X04  5  4 G
X05  6  5 G
X06  7  6 G
X07  8  7 G
X08  9  8 G
X09 10  9 G
X10 11 10 G
.ends

.subckt G 1 2
R1 1 2 1
* .short s1 1 2
.ends

.subckt main
R1 0 2 1
X1 1 2 C
V1 1 0 1
.ends

Xm main

*>.print op i(Xm.V1)
*>.op
*>.status notime
*>.end

* ngspice
.options acct
.op
.print op i(V1)
